US08119805B2
Stage (iv): Ethyl 3-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)propanoate
A degassed solution of (E)-ethyl 3-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)-piperidin-2-yl)acrylate (4.19 mmol) in MeOH was hydrogenolysed with Pd(OH)2 (0.4 g) as the catalyst. The resulting crude product was employed in the following stage without further purification.

reactant | (E)-ethyl 3-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)-piperidin-2-yl)acrylate | 4.19 mmol | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1C(CCCC1)/C=C/C(=O)OCC)C | C19H27NO5S
solvent | MeOH | CO | CH4O
catalyst | Pd(OH)2 | 0.4 g | [OH-].[OH-].[Pd+2]
product | Ethyl 3-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)propanoate | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1C(CCCC1)CCC(=O)OCC)C | C19H29NO5S
